US06511974B1
1-[4-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepine-10-carbonyl)-3-chlorophenyl]-ethanone
Tributyl(ethoxyvinyl)tin (1.17 g) was added to a solution of (4-bromo-2-chlorophenyl)-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone (1.24 g) in toluene (10 ml). The resultant solution was purged with nitrogen for 10 minutes, then bis(triphenylphosphine)palladium (II) chloride (0.11 g) was added. The reaction mixture was heated to reflux for 24 hours. The solution was cooled to room temperature and 5% aqueous hydrochloric acid (10 ml) was added. After stirring for one hour, the mixture was filtered through a pad of diatomaceous. Diethyl ether (5 ml) was added to the filtrate, and the resulting mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, filtered, and evaporated in vacuo to yield a brown glass. Purification by flash chromatography on silica gel eluting with hexane-ethyl acetate (1:1) resulted in a white solid (0.30 g), MS, m/z: 364 (M)+.

reactant | Tributyl(ethoxyvinyl)tin | 1.17 g | C(CCC)[Sn](C=COCC)(CCCC)CCCC
reactant | (4-bromo-2-chlorophenyl)-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 1.24 g | BrC1=CC(=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2)Cl | C19H14BrClN2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[4-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepine-10-carbonyl)-3-chlorophenyl]-ethanone | 0.30 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=C(C=C(C=C1)C(C)=O)Cl | C21H17ClN2O2
